US08476437B2
Optionally, 4-oxo-4-[3-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl]-1-(2,4,5-trifluorophenyl)butan-2-one or its derivative is reduced by using a suitable borane containing reducing agent as earlier, in absence or presence of an acid in a suitable solvent to get 3-hydroxy-1-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)-4-(2,4,5-trifluorophenyl) butan-1-one.

reactant | 4-oxo-4-[3-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl]-1-(2,4,5-trifluorophenyl)butan-2-one | O=C(CC(CC1=C(C=C(C(=C1)F)F)F)=O)N1CC=2N(CC1)C(=NN2)C(F)(F)F | C16H12F6N4O2
reactant | borane | B | BH3
product | 3-hydroxy-1-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)-4-(2,4,5-trifluorophenyl) butan-1-one | OC(CC(=O)N1CC=2N(CC1)C(=NN2)C(F)(F)F)CC2=C(C=C(C(=C2)F)F)F | C16H14F6N4O2
